US07592463B2
1-[(1R, 2R, 3S, 4R)-3-Methylbicyclo[2.2.1]hept-5-en-2-yl]-ethanone (Table 2, Entry 1):
Prepared according to general procedure A from 3-penten-2-one (68 μL, 0.70 mmol), cyclopentadiene (69 μL, 0.84 mmol), 70% aqueous perchloric acid (12.1 μL, 0.14 mmol) and (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (37.8 mg, 0.14 mmol) in water (175 μL) for 2.5 hours at 0° C. Purification by silica gel chromatography (9:1 pentane:ether) provided the title compound as a colorless oil in 85% yield (89 mg, 0.59 mmol); 14:1 endo:exo, endo 61% ee. IR (film) 3061, 2962, 2871, 1708,1461, 1426, 1359,1333, 1267, 1183, 1170,114, 1095, 1055,906.8, 797.8, 719.4, 654.5, 597.0 cm−1; 1H NMR (300 MHz, CDCl3) δ 6.21 (dd, J=6.0, 3.3 Hz, 1 H, CH═CH), 5.90 (dd, J=5.7, 2.7 Hz, 1H, CH═CH), 3.13 (m, 1H, CHCH═CH), 2.44 (m, 1H, CHCH═CH), 2.42 (dd, J=4.8, 3.9 Hz, 1H, CHCO), 2.10 (s, 3H, CH3CO), 1.86 (m, 1 H, CHCH3), 1.57 (m, 1H, C(H)H), 1.43 (m, 1H, C(H)H), 1.14 (d, J=6.9 Hz, 3H, CHCH3); 13C NMR (75 MHz, CDCl3) δ 209.2, 138.8, 132.6, 61.9, 49.3, 46.6, 46.5, 35.9, 29.5, 21.4; HRMS (CI) exact mass calc'd for (C10H14O) requires nm/z 150.1045, found m/z 150.1041. [α]D=+70.4 (c=1.0, CHCl3). Product ratios were determined by GLC analysis (120° C., 23 psi); (1R, 2R, 3S, 4R) endo isomer tr=6.9 min, and (1S, 2S, 3R, 4S) endo isomer tr=6.3 min, exo isomers tr=5.7, 5.5 min.

reactant | 3-penten-2-one | 0.70 mmol, 68 μL | CC(C=CC)=O | C5H8O
reactant | cyclopentadiene | 0.84 mmol, 69 μL | C1=CC=CC1 | C5H6
reactant | perchloric acid | 0.14 mmol, 12.1 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one | 0.14 mmol, 37.8 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C=1OC(=CC1)C)C)=O | C16H18N2O2
solvent | water | 175 μL | O | H2O
product | 1-[(1R, 2R, 3S, 4R)-3-Methylbicyclo[2.2.1]hept-5-en-2-yl]-ethanone | 85% yield | C[C@@H]1[C@H]([C@H]2C=C[C@H]1C2)C(C)=O | C10H14O
